US06908939B2
3.69 g (0.009 mol) of tert-butyl [4′-(2,4-dioxothiazolidin-5-ylidenemethyl)biphenyl-3-yl]methylcarbamate, 6 ml of THF and 7.3 ml of pyridine are introduced, in order, into a 50 ml three-necked round-bottomed flask. The mixture is placed under nitrogen and 10 ml of a freshly prepared 2 M LiBH4 solution (0.02 mol) in THF are added dropwise. After stirring for 30 minutes at room temperature, the mixture is heated under reflux for 16 hours. The reaction medium is poured over 32 ml of a 1 N HCl solution and the THF is evaporated under vacuum. The precipitate obtained is filtered. After drying, the crude product (2.75 g) is chromatographed on 95 g of silica gel, eluting with a heptane/ethyl acetate=3/7 mixture. 2.45 g (66%) of tert-butyl [4′-(2,4-dioxothiazolidin-5-ylmethyl)biphenyl-3-yl]methylcarbamate are obtained.

reactant | tert-butyl [4′-(2,4-dioxothiazolidin-5-ylidenemethyl)biphenyl-3-yl]methylcarbamate | 0.009 mol, 3.69 g | O=C1SC(C(N1)=O)=CC1=CC=C(C=C1)C1=CC(=CC=C1)CNC(OC(C)(C)C)=O | C22H22N2O4S
reactant | pyridine | 7.3 ml | N1=CC=CC=C1 | C5H5N
reactant | LiBH4 | 0.02 mol, 2 M | [Li+].[BH4-]
reactant | HCl | 1 N | Cl | ClH
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 6 ml | C1CCOC1 | C4H8O
product | tert-butyl [4′-(2,4-dioxothiazolidin-5-ylmethyl)biphenyl-3-yl]methylcarbamate | 2.45 g, 66% | O=C1SC(C(N1)=O)CC1=CC=C(C=C1)C1=CC(=CC=C1)CNC(OC(C)(C)C)=O | C22H24N2O4S
